US07220744B2
2-(2,2-Dimethyl-propoxy)-5-methanesulfonyl-benzoic acid
Prepared in analogy to Example A1 (b) from 2-chloro-5-methanesulfonyl-benzoic acid (Example A1(a)) and 2,2-dimethyl-propan-1-ol. The crude material was purified by preparative HPLC to yield the title compound as a white solid. MS (m/e): 285.1 ([M−H]−, 100%).

reactant | 2-chloro-5-methanesulfonyl-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | 2,2-dimethyl-propan-1-ol | CC(CO)(C)C | C5H12O
product | 2-(2,2-Dimethyl-propoxy)-5-methanesulfonyl-benzoic acid | CC(COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C)(C)C | C13H18O5S
